US07396844B1
Synthesis of 4-(3-cyanophenoxy)-N-(4-cyanophenyl)butyramide
100 mg (0.49 mmol) of 4-(3-cyanophenoxy)butyric acid and 50 mg (0.49 mmol) of triethylamine were stirred in dimethylformamide under cooling with ice. 53 mg (0.49 mmol) of ethyl chloroformate was added to the resultant mixture. After stirring for 2 minutes, 58 mg (0.49 mmol) of p-aminobenzonitrile was added to the reaction mixture. The temperature was elevated to room temperature, and they were stirred overnight. 1 N hydrochloric acid was added to the reaction mixture. After the extraction with ethyl acetate, the extract was washed with saturated aqueous sodium hydrogencarbonate solution and then with saturated aqueous NaCl solution, and then dried over anhydrous magnesium sulfate. The solvent was evaporated to obtain the crude title compound.

reactant | 4-(3-cyanophenoxy)butyric acid | 0.49 mmol, 100 mg | C(#N)C=1C=C(OCCCC(=O)O)C=CC1 | C11H11NO3
reactant | triethylamine | 0.49 mmol, 50 mg | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 0.49 mmol, 53 mg | ClC(=O)OCC | C3H5ClO2
reactant | p-aminobenzonitrile | 0.49 mmol, 58 mg | NC1=CC=C(C#N)C=C1 | C7H6N2
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 4-(3-cyanophenoxy)-N-(4-cyanophenyl)butyramide | C(#N)C=1C=C(OCCCC(=O)NC2=CC=C(C=C2)C#N)C=CC1 | C18H15N3O2
